US03969409
12.5 Parts of 3-(2-chloroanilino)-5,5-dimethyl-2-cyclohexen-1-one is dissolved in 30 volume parts of methanol under warming and, then, to the resulting solution are added 4.5 parts of a 37 weight % aqueous solution of formaldehyde, 6.05 parts of piperidine hydrochloride and 2 drops of glacial acetic acid. The whole mixture is allowed to stand at room temperature for 1 hour, whereupon a yellow, clear solution is obtained. The methanol is distilled off under reduced pressure, and a small amount of isopropyl ether is added to the resulting residue, followed by cooling, whereupon colorless crystals separate. The crystals are collected by filtration and recrystallized from acetone. The procedure yields colorless prisms of 3-(2-chloroanilino)-5,5-dimethyl-2-piperidinomethyl-2-cyclohexen-1-one hydrochloride. Melting point: 105°-106°C. Elementary analysis: C20H28N2OCl2.1/2H2O Calcd. C, 61.21; H, 7.45; N, 7.14 Found C, 60.91; H, 7.60; N, 7.25.

reactant | 3-(2-chloroanilino)-5,5-dimethyl-2-cyclohexen-1-one | ClC1=C(NC2=CC(CC(C2)(C)C)=O)C=CC=C1 | C14H16ClNO
reactant | formaldehyde | C=O | CH2O
reactant | piperidine hydrochloride | Cl.N1CCCCC1
solvent | methanol | CO | CH4O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 3-(2-chloroanilino)-5,5-dimethyl-2-piperidinomethyl-2-cyclohexen-1-one hydrochloride | Cl.ClC1=C(NC2=C(C(CC(C2)(C)C)=O)CN2CCCCC2)C=CC=C1 | InChI=1S/C20H27ClN2O.ClH/c1-20(2)12-18(22-17-9-5-4-8-16(17)21)15(19(24)13-20)14-23-10-6-3-7-11-23;/h4-5,8-9,22H,3,6-7,10-14H2,1-2H3;1H
